US07989454B2
3-Benzo[1,3]dioxol-5-yl-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid tert-butyl ester
The title compound was prepared in the same way as 5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-3′-fluoro-biphenyl-3-carboxylic acid tert-butyl ester starting from 3-benzo[1,3]dioxol-5-yl-5-hydroxy-benzoic acid tert-butyl ester.

reactant | 5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-3′-fluoro-biphenyl-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C=1C=C(C=C(C1)OCCCCCCC1=C(C(=CC=C1)OCCCC(=O)OCC)CCC(=O)OCC)C1=CC(=CC=C1)F | C40H51FO8
reactant | 3-benzo[1,3]dioxol-5-yl-5-hydroxy-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=CC(=C1)O)C1=CC2=C(OCO2)C=C1)=O | C18H18O5
product | 3-Benzo[1,3]dioxol-5-yl-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=CC(=C1)OCCCCCCC1=C(C(=CC=C1)OCCCC(=O)OCC)CCC(=O)OCC)C1=CC2=C(OCO2)C=C1)=O | C41H52O10
